US06872720B2
To toluene-4-sulfonic acid 4-(2-fluorophenyl)-5-(1-hydroxyethyl)-1H-pyrazol-3-yl ester (16.4 g, 43.6 mmol) in dichloromethane (500 ml) was added pyridinium dichromate (19.7 g, 52.3 mmol) and the resulting slurry was stirred at room temperature for 1 h. The mixture was poured directly onto a column of silica gel, and the product was eluted off with ethyl acetate, yielding toluene-4-sulfonic acid 5-acetyl-4-(2-fluorophenyl)-1H-pyrazol-3-yl ester as a yellow solid (8.64 g). 1H NMR (400 MHz, CDCl3) δ 2.16 (3H, s), 2.43 (3H, s), 7.09 (1H, m), 7.22 (3H, m), 7.34 (1H, m), 7.41 (1H, m), 7.65 (2H, d, J=6.8 Hz); MS (ES+) m/e 375 [MH]+.

reactant | toluene-4-sulfonic acid 4-(2-fluorophenyl)-5-(1-hydroxyethyl)-1H-pyrazol-3-yl ester | 43.6 mmol, 16.4 g | FC1=C(C=CC=C1)C=1C(=NNC1C(C)O)OS(=O)(=O)C1=CC=C(C=C1)C | C18H17FN2O4S
reactant | pyridinium dichromate | 52.3 mmol, 19.7 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | toluene-4-sulfonic acid 5-acetyl-4-(2-fluorophenyl)-1H-pyrazol-3-yl ester | 8.64 g | C(C)(=O)C1=C(C(=NN1)OS(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=CC=C1)F | C18H15FN2O4S
